US09079866B2
5-(3-Fluoro-2′-{[2-(trifluoromethyl)pyridin-4-yl]oxy}biphenyl-4-yl)pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 4-(2-bromophenoxy)-2-(trifluoromethyl)pyridine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C22H14F4N4O, 426.11; m/z found, 426.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) 58.51 (d, J=5.7, 1H), 8.38 (d, J=1.5, 2H), 7.62 (dd, J=7.6, 1.8, 1H), 7.56-7.42 (m, 3H), 7.38-7.30 (m, 4H), 7.04 (dd, J=5.6, 2.4, 1H), 6.84 (s, 2H).

reactant | 4-(2-bromophenoxy)-2-(trifluoromethyl)pyridine | BrC1=C(OC2=CC(=NC=C2)C(F)(F)F)C=CC=C1 | C12H7BrF3NO
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-(3-Fluoro-2′-{[2-(trifluoromethyl)pyridin-4-yl]oxy}biphenyl-4-yl)pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)OC1=CC(=NC=C1)C(F)(F)F | C22H14F4N4O
